US06268387B1
3-(4-Methoxy-benzenesulfonylamino)-4-methoxy-N-phenyl-benzamide
A mixture of 4-methoxybenzenesulfonyl chloride (2.21 g, 10.0 mmol), 3-amino-4-methoxy-N-phenyl-benzamide (2.43 g, 10.0 mmol) and pyridine (25 mL) was allowed to stand at room temperature until thin layer chromatography indicated the reaction to be complete. The mixture was then partitioned between water (400 mL) and ethyl acetate (400 mL). The layers were separated and the organic layer washed with water (2×400 mL), 1N HCL (100 mL), and brine (100 mL) dried (magnesium sulfate), filtered and stripped of solvent. Trituration of the residue in hexanes/ethyl acetate (1:1) and filtration afforded the product (3.754 g); m.p. 184-186° C.

reactant | 4-methoxybenzenesulfonyl chloride | 10.0 mmol, 2.21 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 10.0 mmol, 2.43 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-Methoxy-benzenesulfonylamino)-4-methoxy-N-phenyl-benzamide | 3.754 g | COC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C21H20N2O5S
